US05753648
N-[3-Chloro-4-(5H,11H-pyrrolo{2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-pyrrol-1-yl-benzamide
A solution of 1-(2-carboxyphenyl)pyrrole (188 mg, 1 mmol) and triphenylphosphine (264 mg, 1 mmol) in dichloromethane (6 ml) was cooled to 0° C. To this solution was added, portionwise, N-chlorosuccinimide (131 mg, 0.9 mmol). The solution was stirred for 30 minutes and allowed to warm to room temperature. To this solution was added a solution of 10,11-dihydro-10-(2-chloro-4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine (338 mg, 1 mmol) and triethylamine (0.15 ml, 1.06 mmol) in 15 ml of a mixture of a tetrahydrofuran-dichloromethane (1:2). The reaction was stirred for two hours at room temperature and then was concentrated to a solid in vacuo. The solid was disolved in ether (100 ml) and filtered. The filtrate was concentrated in vacuo and chromatographed over silica gel with ethyl acetate-hexane (1:1) as the mobile phase to afford 270 mg of the product as a yellow solid. Recrystallization from ethyl acetate-ether-hexane gave 180 mg of the product as a colorless solid. MS (EI),m/z 506/508 (M+).

reactant | 1-(2-carboxyphenyl)pyrrole | 1 mmol, 188 mg | C(=O)(O)C1=C(C=CC=C1)N1C=CC=C1 | C11H9NO2
reactant | triphenylphosphine | 1 mmol, 264 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 0.9 mmol, 131 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 10,11-dihydro-10-(2-chloro-4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1 mmol, 338 mg | ClC1=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=CC(=C1)N | C19H16ClN3O
reactant | triethylamine | 1.06 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran dichloromethane | O1CCCC1.ClCCl
product | N-[3-Chloro-4-(5H,11H-pyrrolo{2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-pyrrol-1-yl-benzamide | 270 mg | ClC=1C=C(C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)NC(C2=C(C=CC=C2)N2C=CC=C2)=O | C30H23ClN4O2
